US03965151
Preparation of 10-chloro-11b-(2-chlorophenyl)-7-methoxymethyl-2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one
A solution of 2.8 g. of 10-chloro-11 b-(2-chlorophenyl)- 2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one in 50 ml. of dimethylformamide was cooled to -10° and treated with 0.65 g. of sodium methoxide. After stirring for 5 minutes, the mixture was cooled to -40° and 1 ml. of chlorodimethyl ether was added. The cooling bath was removed and when the temperature had reached 0° the reaction mixture was poured into 300 ml. of ice-water. The precipitated material was collected by suction and dissolved in methylene chloride. The solution was dried over sodium sulfate, filtered and evaporated. The residue was crystallized from a mixture of ether and hexane to give, after recrystallization from ethanol, 10-chloro-11b-(2-chlorophenyl)-7-methoxymethyl-2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4] benzodiazepin-6(7H)-one as white prisms, m.p. 144°-147°.

reactant | 10-chloro-11 b-(2-chlorophenyl)- 2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2)=O)CCO3)C3=C(C=CC=C3)Cl)C1 | C17H14Cl2N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | chlorodimethyl ether | COCCl | C2H5ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 10-chloro-11b-(2-chlorophenyl)-7-methoxymethyl-2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2COC)=O)CCO3)C3=C(C=CC=C3)Cl)C1 | C19H18Cl2N2O3
